US08058477B2
(CyPF-t-Bu)PdCl2 (73.0 mg, 100 mmol), LiNH2 (2.30 g, 100 mmol) and 1-Bromo-2-i-propylbenzene (1.99 g, 100 mmol) were weighed into a 100 mL round bottom flask with a stirring bar. DME (20.0 mL) was then added. The flask was sealed with a cap and wrapped tightly with electrical tape. The reaction mixture was stirred for 24 h at 90° C. The reaction mixture was allowed to cool to room temperature before pouring into ice water (50.0 mL). To this mixture was added aqueous HCl (100 mL, 1.0 M). The mixture was stirred at room temperature for 5 min and was then neutralized with a saturated solution of NaHCO3 (50.0 mL). After extraction with CH2Cl2 (3×50.0 mL), the organic layer was separated and dried over MgSO4. The solvent was evaporated, and the crude product isolated by column chromatography, eluting with hexane/ethyl acetate (70/30) to give 1.11 g (82%) of 2-i-propylaniline as a solid.

reactant | LiNH2 | 100 mmol, 2.30 g | [Li]N
reactant | 1-Bromo-2-i-propylbenzene | 100 mmol, 1.99 g | BrC1=C(C=CC=C1)C(C)C | C9H11Br
reactant | HCl | 1.0 M, 100 mL | Cl | ClH
reactant | NaHCO3 | 50.0 mL | C(=O)(O)[O-].[Na+]
solvent | DME | 20.0 mL | COCCOC | C4H10O2
product | 2-i-propylaniline | 1.11 g, 82% | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
